US06686381B2
3-Bromo-1-o-tolyl-propane-1,2-dione
A mixture of 3 g (18.49 mmol) 1-o-Tolyl-propane-1,2-dione and 1.05 ml (20.34 mmol) bromine in 30 ml CHCl3 and 0.53 ml acetic acid was heated to 70° C. for 16 h. The mixture was evaporated under reduced pressure to yield 4.35 g (98%) of the title compound.

reactant | 1-o-Tolyl-propane-1,2-dione | 18.49 mmol, 3 g | C1(=C(C=CC=C1)C(C(C)=O)=O)C | C10H10O2
reactant | bromine | 20.34 mmol, 1.05 ml | BrBr | Br2
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 0.53 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-1-o-tolyl-propane-1,2-dione | 4.35 g, 98% | BrCC(C(=O)C1=C(C=CC=C1)C)=O | C10H9BrO2
